US20010041703A1
A. 2-Methyl-pyrrolo[3,4-c]pyrdine-1,3-dione
To a stirred solution of 3,4-pyridinedicarboximide (10.0 g, 67.5 mmol) in N,N-dimethylformamide was added sodium hydride (1.55 g, 60% dispersion in mineral oil, 67.5 mmol) at room temperature. The mixture was stirred for about 30 minutes, then methyl iodide (9.58 g, 67.5 mmol) was added, and the reaction was stirred overnight. Ethyl acetate was added to the reaction mixture, and the mixture was extracted once with water, twice with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo (azeotroping excess N,N-dimethylformamide with heptanes) to give crude product. Purification by silica gel chromatography using 0-5% methanol/dichloromethane as eluent afforded the title compound of part 11-A as an off-white solid (5 g, 46%): PB MS (M+1)+ 163; 1H NMR=250 MHz (CDCl3) δ: 9.11 (arom, s, 1H), 9.08 (arom, d, 1H), 7.75 (arom, d, 1H), 3.20 (Me, s, 3H).

reactant | 3,4-pyridinedicarboximide | 67.5 mmol, 10.0 g | C1=CN=CC2=C1C(=O)NC2=O | C7H4N2O2
reactant | sodium hydride | 67.5 mmol, 1.55 g | [H-].[Na+]
reactant | methyl iodide | 67.5 mmol, 9.58 g | CI | CH3I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Methyl-pyrrolo[3,4-c]pyrdine-1,3-dione | CN1C(C=2C=NC=CC2C1=O)=O | C8H6N2O2
